US05728835
N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)-4-succinimidomethylbenzamide
In an atmosphere of argon, N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-hydroxymethyl-N-(2-methoxyphenyl)benzamide (54 mg, 0.11 mmol), succinimide (13 mg, 0.132 mmol) and triphenylphosphine (34.6 mg, 0.132 mmol) were dissolved in THF (1 ml) to which was subsequently added dropwise diethyl azodicarboxylate (21 μl, 0.132 mmol) while cooling in an ice bath. After 30 minutes of stirring at room temperature, the reaction solution was diluted with water (10 ml) and extracted with ethyl acetate. The resulting organic layer was washed with water and saturated brine, and dried on anhydrous sodium carbonate. Thereafter, the solvent was removed by evaporation, and the resulting residue was purified by a PTLC (chloroform:methanol=20:1) to obtain 42 mg (66.8%) of the title compound in a light yellow amorphous form.

reactant | N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-hydroxymethyl-N-(2-methoxyphenyl)benzamide | 0.11 mmol, 54 mg | FC1=CC=C(C(=O)C2CCN(CC2)CCN(C(C2=CC=C(C=C2)CO)=O)C2=C(C=CC=C2)OC)C=C1 | C29H31FN2O4
reactant | succinimide | 0.132 mmol, 13 mg | C1(CCC(N1)=O)=O | C4H5NO2
reactant | triphenylphosphine | 0.132 mmol, 34.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.132 mmol, 21 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)-4-succinimidomethylbenzamide | 42 mg, 66.8% | FC1=CC=C(C(=O)C2CCN(CC2)CCN(C(C2=CC=C(C=C2)CN2C(CCC2=O)=O)=O)C2=C(C=CC=C2)OC)C=C1 | C33H34FN3O5
